*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*								            				    *
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating	        *
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.						                        *
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models        *
* without prior notice.                                         *
*                                                               *
* Note: The model doesn't take into account the drain, gate,    *
* source inductances.If these contributions have to be          *
* considered it is possible include the inductors externally.   *
* For this package the values can be estimated as follow        *
*                                                               *
* Ldrain= 1nH ,Lsource=2nH and Lgate=2.5nH                      *
*****************************************************************

.SUBCKT STD12N65M2_V3 drain gate source Tj Tcase
*****************************************************************
*E1	Tj	Val_T	VALUE={TEMP}
*R1	Val_T	0	1E-03
*****************************************************************
Rtk	 Tj 0 1E010
Rtk1 Tj 0 1E010
*****************************************************************
VLd drain d1k 0
V_Read d1k d1 0
VLs source ss 0
VLg gate g2 0
Rg1 g2 g {Rg}
.PARAM  Rg=5.2
*****************************************************************
.PARAM AreaCap=0.48 Area=0.36 Gfs=1 RAV=850m
*****************************************************************
.PARAM  Vth0=3.21 KpSat0=18 KpLin0=11      
.PARAM  Rs=1E-03 Drs=-1.5 Lim=35 Limt=500
.PARAM  Vthx=4E-03 KSat=-1.6 KLin=-2     
.PARAM  Lambda=0.002 Rdrain=94E-03 Drd=0.0099 Alpha=0.105
*****************************************************************
.FUNC Vth1(x) {Vth0-Vthx*(x-27)}
.FUNC KpSat(x) {KpSat0*((x+273)/300)**(KSat)}
.FUNC KpLin(x) {KpLin0*((x+273)/300)**(KLin)}
*****************************************************************
R_drain	d1 d 1E03
Vdrainx	11xy dfet 0
Edrainx 11xy d1 VALUE={Rdrainx(Limit(I(Vdrainx),-1E06,1E06),V(Tj))}
.FUNC Rdrainx(ITj,T1x) {-(ITj)*(Rdrain/Area)*(1+drd*T1x)}
E-fet dfet d VALUE={(V(d1,dfet)*V(d1,s))*Alpha}
*****************************************************************
R_Grs ss s 1E03
V1xx 11xxx ss 0
E1xxx 11xxx s VALUE={R1(Limit(I(V1xx),-1E06,1E06),V(Tj))}
.FUNC R1(I1,T1) {-(I1)*((Rs/(Area*(((T1+273)/300)**(Drs)))))}
*****************************************************************
Gmos d s VALUE {Limit(0.9*Gfs*(IF(V(d,s)>0,(IF(V(g,s)<Vth1(V(Tj)),0,
+(IF((V(d,s)<(V(g,s)-Vth1(V(Tj)))*KpSat(V(Tj))/KpLin(V(Tj))),(1+Lambda*V(d,s))*KpLin(V(Tj))/2*V(d,s)*
+(2*(V(g,s)-Vth1(V(Tj)))-KpLin(V(Tj))/KpSat(V(Tj))*V(d,s)),
+(1+Lambda*V(d,s))*KpSat(V(Tj))/2*(V(g,s)-Vth1(V(Tj)))**2)))),-(IF(V(g,s)<Vth1(V(Tj)),0,
+(IF((V(s,d)<(V(g,s)-Vth1(V(Tj)))*KpSat(V(Tj))/KpLin(V(Tj))),(1+Lambda*V(s,d))*KpLin(V(Tj))/2*V(s,d)*
+(2*(V(g,s)-Vth1(V(Tj)))-KpLin(V(Tj))/KpSat(V(Tj))*V(s,d)),
+(1+Lambda*V(s,d))*KpSat(V(Tj))/2*(V(g,s)-Vth1(V(Tj)))**2)))))),-Lim,Lim)} 
*****************************************************************
.PARAM Pir=0.95
*****************************************************************
Gmos2 d s VALUE {Limit(0.1*Gfs*(IF(V(d,s)>0,(IF(V(g,s)<Pir*Vth1(V(Tj)),0,
+(IF((V(d,s)<(V(g,s)-Pir*Vth1(V(Tj)))*KpSat(V(Tj))/KpLin(V(Tj))),(1+Lambda*V(d,s))*KpLin(V(Tj))/2*V(d,s)*
+(2*(V(g,s)-Pir*Vth1(V(Tj)))-KpLin(V(Tj))/KpSat(V(Tj))*V(d,s)),
+(1+Lambda*V(d,s))*KpSat(V(Tj))/2*(V(g,s)-Pir*Vth1(V(Tj)))**2)))),-(IF(V(g,s)<Pir*Vth1(V(Tj)),0,
+(IF((V(s,d)<(V(g,s)-Pir*Vth1(V(Tj)))*KpSat(V(Tj))/KpLin(V(Tj))),(1+Lambda*V(s,d))*KpLin(V(Tj))/2*V(s,d)*
+(2*(V(g,s)-Pir*Vth1(V(Tj)))-KpLin(V(Tj))/KpSat(V(Tj))*V(s,d)),
+(1+Lambda*V(s,d))*KpSat(V(Tj))/2*(V(g,s)-Pir*Vth1(V(Tj)))**2)))))),-Lim,Lim)}
R_DS d s 1000E06
*****************************************************************
CGS source g {1481p*AreaCap}
RCGS source g 1000E06 
*****************************************************************
EDev Dev1 0 VALUE {V(d,g)}
C_Dev1 Dev1 Dev2 1E-12
R_Dev Dev2 Dev3 1E-06
V_Miller Dev3 0 0 
G_Miller d g  VALUE ={Limit(AreaCap*V(Alfa)*i(V_Miller)*1E12,-Lim,Lim)}
*****************************************************************
RCap Alfa 0 1E03
ECap Alfa 0 TABLE ={V(d,g)}
+(0.1,1105.4p) 
+(0.2,1072.6p) 
+(0.5,991.3p) 
+(1,896.5p) 
+(2,763.4p) 
+(3,694.2p) 
+(5,509.4p) 
+(7,385.1p) 
+(10,292.2p) 
+(15,61p) 
+(20,21.5p) 
+(25,14.6p) 
+(30,10.2p) 
+(40,6p) 
+(50,3.7p) 
+(100,2p) 
+(150,2p) 
+(200,2p) 
+(250,2p) 
+(300,2p) 
+(350,2p) 
+(400,2p) 
+(450,2p) 
+(500,2p) 
+(550,2p) 
+(600,2p) 
+(650,2p) 

*****************************************************************
EDevc Dev1c 0 VALUE {V(d,s)}
C_Dev1c Dev1c Dev2c 1E-12
R_Devc Dev2c Dev3c 1E-06
V_Millerc Dev3c 0 0 
G_Coss d s  VALUE ={Limit(1*AreaCap*V(Alfa2)*i(V_Millerc)*1E12,-Lim,Lim)}
*****************************************************************
RCap2 Alfa2 0 1E03
ECap2 Alfa2 0 TABLE ={V(d,s)}
+(0.1,12162.6p) 
+(0.2,11323.7p) 
+(0.5,9957.2p) 
+(1,8514.9p) 
+(2,6930.5p) 
+(3,5984.2p) 
+(5,4913.5p) 
+(7,4269.3p) 
+(10,3628.1p) 
+(15,2000p) 
+(20,900p) 
+(25,600p) 
+(30,404.8p) 
+(40,230p) 
+(50,162.5p) 
+(100,60.2p) 
+(150,56.1p) 
+(200,54.1p) 
+(250,52.4p) 
+(300,50.8p) 
+(350,49p) 
+(400,47.3p) 
+(450,45.6p) 
+(500,44.7p) 
+(550,44.1p) 
+(600,43.7p) 
+(650,43.3p) 

*****************************************************************
V_Sense2  sx s  0
*****************************************************************
G_BVdss	d1bvdss1 ss  VALUE={I_BVdss(V(d1bvdss1,ss),V(Tj))}
R_GBdSS	d1bvdss1 0 1E12
.FUNC I_BVdss(z,k1) {(exp(min(-175+z/(bvd(k1)),7))-1E-09)}
.FUNC bvd(k) {3.95+0.0031*k}
R_BVdss d1 d1bvdss1 {RAV}
*****************************************************************
.PARAM ResDiodo={0.023/Area}
V_Diodo d1zd d1z 0
G_Diode source d1zd VALUE={Limit(I_Diode(V(source,d1zd),V(Tj)),-Lim,Lim)}
R_X source d1zd 1E12
.FUNC I_Diode(z3,k3) {(exp(min(-15+z3/(did(k3)),7))-0)}
.FUNC did(k4) {0.049-65E-06*k4}
R_G_R_didd d1 d1z {ResDiodo}
*****************************************************************
E_E001 ba 0 VALUE {-I(V_Diodo)}
R_R002 aa ba 500
C aa 0 55E-12
.PARAM Irrm=59E4
*****************************************************************
R_edep d d_dedep 30
E_Eds d_dedep edep VALUE {-V(aa,0)*Irrm*Area}
C_Cds edep source {1E-12}
*****************************************************************
E_Power Thx 0 VALUE ={limit(V(drain,source)*I(V_Read),-100k,100k)}
R_Power Thx 0 1E9
RTHXX Thx Thxx 1E03
CTXX Thxx 0 1E-09
G_Pw1 0 TJ1 VALUE ={V(Thxx)}
E_Temp Ta 0 VALUE={Limit(V(TJ1),-limt,limt)}
R_Temp1 Ta Tj 1E06
R_Temp TJ 0 1E012

.PARAM Kth=1.25

Rth1 Tj1 Th1	{55E-04*Kth}
Rth2 Th1 Th2	{11E-02*Kth}
Rth3 Th2 Th3	{43E-02*Kth}
Rth4 Th3 Th4	{175E-03*Kth}
Rth5 Th4 Tcase	{0.425*Kth}

Cth1 Tj1 0		{1E-05/Kth}
Cth2 Th1 0		{15E-04/Kth}
Cth3 Th2 0		{6E-03/Kth}
Cth4 Th3 0		{50E-03/Kth}
Cth5 Th4 0		{0.255/Kth}
Cth6 Tcase 0	0.255 
*****************************************************************

.ENDS STD12N65M2_V3

